US07645881B2
To a solution of methyl 3-cyano-5-ethyl-4,6-dimethylthieno[2,3-b]pyridine-2-carboxylate (2.70 g, 9.9 mmol), prepared above, in ethanol (100 mL), was added aqueous NaOH (1.25 N, 15.7 mL, 19.6 mmol), and the mixture was stirred for 2 h at 60° C. The volatiles were removed under reduced pressure and the residue was dissolved in water (150 mL) and then acidified using concentrated HCl until the pH was adjusted to 5-6. The precipitate was collected via filtration and washed thoroughly with water, dried in air to give 3-cyano-5-ethyl-4,6-dimethylthieno[2,3-b]pyridine-2-carboxylic acid (2.38 g, 93%). MS (ES−) m/z: 259.

reactant | methyl 3-cyano-5-ethyl-4,6-dimethylthieno[2,3-b]pyridine-2-carboxylate | 9.9 mmol, 2.70 g | C(#N)C1=C(SC2=NC(=C(C(=C21)C)CC)C)C(=O)OC | C14H14N2O2S
reactant | NaOH | 19.6 mmol, 1.25 N, 15.7 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-cyano-5-ethyl-4,6-dimethylthieno[2,3-b]pyridine-2-carboxylic acid | 2.38 g, 93% | C(#N)C1=C(SC2=NC(=C(C(=C21)C)CC)C)C(=O)O | C13H12N2O2S
